US04508882
Preparation of 2(2-hydroxy-5-methylphenyl)5-vinyl-2H-benzotriazole
In a 200 ml flask equipped with a reflux condenser and a mechanical stirrer were placed 2(2-acetoxy-5-methylphenyl)5-vinyl-2H-benzotriazole (7.2 g, 24.5 mmole), a 20% solution of sodium hydrogencarbonate (4.2 g), methanol (110 g) and picric acid (0.01 g). The mixture was heated and kept for 1.5 hours at reflux temperature. The clear, yellow solution was cooled to room temperature, filtered and acidified slowly at 0° to 50° C. with 1N aqueous hydrochloric acid solution. The precipitate was dissolved in chloroform (100 ml), and the organic layer was concentrated. Several precipitations of the chloroform or a dichloromethane solution into methanol were sometimes necessary to remove some insoluble material. The vinyl compound was finally crystallized from methanol/water, dried at 0.05 mm, and gave 3.4 g (55%) yield. Which had the following properties.

reactant | 2(2-acetoxy-5-methylphenyl)5-vinyl-2H-benzotriazole | 24.5 mmole, 7.2 g | C(C)(=O)OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC(=C2)C=C | C17H15N3O2
reactant | sodium hydrogencarbonate | 4.2 g | C(O)([O-])=O.[Na+]
reactant | picric acid | 0.01 g | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O7
solvent | methanol | 110 g | CO | CH4O
product | 2(2-hydroxy-5-methylphenyl)5-vinyl-2H-benzotriazole | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC(=C2)C=C | C15H13N3O
